US07384967B2
{5-Chloro-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid
To a suspension of {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid (0.50 g, 1.29 mmol) in 20 ml of acetonitrile was added N-chlorosuccinimide (0.19 g, 1.42 mmol). The reaction mixture was stirred under nitrogen, in a pressure bottle excluded from light, for 2 h at 80° C. The mixture was concentrated under reduced pressure, dissolved in DMSO and purified by preparative HPLC to afford the title compound (0.128 g, 24%).

reactant | {2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | 1.29 mmol, 0.50 g | C1(CCCC1)C(=O)C1=C(C=CC(=C1)C)NC(NC=1SC=C(N1)CC(=O)O)=O | C19H21N3O4S
reactant | N-chlorosuccinimide | 1.42 mmol, 0.19 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | {5-Chloro-2-[3-(2-cyclopentanecarbonyl-4-methyl-phenyl)-ureido]-thiazol-4-yl}-acetic acid | 0.128 g, 24% | ClC1=C(N=C(S1)NC(=O)NC1=C(C=C(C=C1)C)C(=O)C1CCCC1)CC(=O)O | C19H20ClN3O4S
